US05426119
b) 2-tert.Butoxycarbonylamino-6-bromo-1,2,3,4-tetrahydronaphthaline
44 ml of 1N sodium hydroxide and subsequently 4,8 g of di-tert.butyl dicarbonate were added to a solution of 5.25 g of 2-amino-6-bromo-1,2,3,4-tetrahydronaphthaline in 75 ml of dioxane/water (2:1) at 0° C. After stirring for 12 hours at room temperature, the mixture was evaporated, mixed with water and extracted with ethyl acetate. The organic phase was evaporated and the residue obtained recrystallised from petroleum ether.

reactant | sodium hydroxide | 1N, 44 ml | [OH-].[Na+]
reactant | di-tert.butyl dicarbonate | 4,8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-amino-6-bromo-1,2,3,4-tetrahydronaphthaline | 5.25 g | NC1CC2=CC=C(C=C2CC1)Br | C10H12BrN
solvent | dioxane water | 75 ml | O1CCOCC1.O
product | 2-tert.Butoxycarbonylamino-6-bromo-1,2,3,4-tetrahydronaphthaline | C(C)(C)(C)OC(=O)NC1CC2=CC=C(C=C2CC1)Br | C15H20BrNO2
